US05866592
Sodium hydride (60% oil) (0.48 g, 12 mmol) was added at 0° C. to a tetrahydrofuran (40 ml) solution of 4-phenyl-3,3-dimethyl-2-azetidinone (1.75 g, 10 mmol) as prepared in Example 2-(2) and the mixture was reacted at 0° C. for 15 minutes. To the reaction solution, methyl iodide (0.74 ml, 12 mol) was added dropwise and the temperature of the mixture was returned to room temperature. The reaction was performed for 2 hours and stopped by adding a saturated aqueous solution of ammonium chloride. The reaction mixture was extracted 2 times with ethyl acetate and washed 3 times with a saturated aqueous solution of NaCl. The organic layer was dried over anhydrous sodium sulfate and the solvent was distilled off. The obtained oil was applied to a silica gel column and eluted with a mixed solution (hexane:ethyl acetate=2:1). The desired fractions were collected and the solvents were distilled off to yield N-methyl-4-phenyl-3,3-dimethyl-2-azetidinone (1.89 g, quant.).

reactant | Sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | 4-phenyl-3,3-dimethyl-2-azetidinone | 10 mmol, 1.75 g | C1(=CC=CC=C1)C1C(C(N1)=O)(C)C | C11H13NO
reactant | methyl iodide | 12 mol, 0.74 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-methyl-4-phenyl-3,3-dimethyl-2-azetidinone | 1.89 g | CN1C(C(C1C1=CC=CC=C1)(C)C)=O | C12H15NO
